US04105798
Also, in a like manner, octafluoro-but-2-ene and cyclopentadiene react to give 2,3-difluoro-2,3-bis(trifluoromethyl) bicyclo[2.2.1] heptane which, after hydrogenation over ruthenium gives 2,3-bis(trifluoromethyl)bicyclo [2.2.1] heptane.

reactant | octafluoro-but-2-ene | FC(C(=C(C(F)(F)F)F)F)(F)F | C4F8
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | 2,3-difluoro-2,3-bis(trifluoromethyl) bicyclo[2.2.1] heptane | FC1(C2CCC(C1(C(F)(F)F)F)C2)C(F)(F)F | C9H8F8
